US04971993
N-o-nitrobenzenesulfonyl-L-alanyl-L-proline (1.51 g, 4.1 mmole) was dissolved in ethanol (10 ml) and hydrogen gas was passed through the solution in the presence of 5% palladium-carbon as a catalyst for 3 hours. The catalyst was separated by filtration and the solvent was distilled off under reduced pressure. The residue thus obtained was recrystallized from ethyl acetate, diethyl ether and petroleum ether to give N-o-aminobenzenesulfonyl-L-alanyl-L-proline (yield: 0.75 g, 56.9%).

reactant | N-o-nitrobenzenesulfonyl-L-alanyl-L-proline | 4.1 mmole, 1.51 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C14H17N3O7S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium-carbon | [C].[Pd]
product | N-o-aminobenzenesulfonyl-L-alanyl-L-proline | yield: 0.75 g, 56.9% | NC1=C(C=CC=C1)S(=O)(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C14H19N3O5S
